US08058456B2
Preparation of ethyl (R)-2,5-dioxo-3-(pyrrol-1-yl)pyrrolidine-3-carboxylate
(S)-(+)-Camphorsulfonic acid salt of ethyl (R)-3-amino-2,5-dioxopyrrolidine-3-carboxylate (418 mg) was dissolved in 25% aqueous acetic acid solution (4 ml). Thereto were added sodium acetate (82 mg) and 2,5-dimethoxytetrahydrofuran (0.143 ml) and the mixture was stirred at 70° C. for 1.5 hours. After allowed to cool, to this mixture was added ethyl acetate (20 ml) and then the mixture were washed with water, followed by saturated brine and dried over magnesium sulfate and filtered. The filtrate was concentrated to give an oil. This was purified by a flash column chromatography (hexane:ethyl acetate=3:1) to give the desired product (230 mg, 97%) as oil. 1H NMR data of this product were consistent with those described in J. Med. Chem., 1998, 41, p. 4118 to 4129.

reactant | (S)-(+)-Camphorsulfonic acid | [C@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
reactant | ethyl (R)-3-amino-2,5-dioxopyrrolidine-3-carboxylate | 418 mg | N[C@]1(C(NC(C1)=O)=O)C(=O)OCC | C7H10N2O4
reactant | sodium acetate | 82 mg | C(C)(=O)[O-].[Na+]
reactant | 2,5-dimethoxytetrahydrofuran | 0.143 ml | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | ethyl (R)-2,5-dioxo-3-(pyrrol-1-yl)pyrrolidine-3-carboxylate | 230 mg, 97% | O=C1NC(C[C@@]1(C(=O)OCC)N1C=CC=C1)=O | C11H12N2O4
